* ==========================================================================
* @part: LM1875
* @family: opamps
* @source: TI
* @url: https://www.ti.com/lit/zip/SNAM066
* @origin-file: ti/LM1875/SNAM066/LM1875.lib
* @retrieved: 2026-09-24
* @licence: condition: "The model is provided solely on an "as is" basis."; notice: "(C) Copyright 2012 Texas Instruments Incorporated. All rights reserved."
* @added-by: garv.singh
* @pins: LM1875_0: Vin Vip VSS VDD Vout
* @notes: 20 W audio power amplifier; NOTE pin order Vin (inverting) Vip (non-inverting) VSS VDD Vout
* @patched: spiceconv g-resistor-dcpath (14 change(s))
* @patched: 13 helper subckt/model name(s) suffixed with '__LM1875' so this file can be included together with other files
* The complete origin file follows (modified, see @patched).
* ==========================================================================

* LM1875
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: LM1875
* Date: 3/29/2012
* Model Type: All In One
* Simulator: Pspice
* Simulator Version: Pspice 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SNAS524A 
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
*
*****************************************************************************
* Notes:
*****************************************************************************
.SUBCKT LM1875_0 Vin Vip VSS VDD Vout
IS2         VDD 20 200N
IS3         19 VSS -200N
Vos         20 12 1M
XU4         GNDF VSS 8 9 GNDF PSRR_0__LM1875  PARAMS: PSRR=90 FPSRR=500
XU5         VDD GNDF 9 10 GNDF PSRR_0__LM1875  PARAMS: PSRR=95 FPSRR=20K
XU_VNOISE   11 12 VNSE_0__LM1875  PARAMS: NLF=10 FLW=4 NVR=3000
XU2         15 13 14 GNDF VDD GBW_SLEW_SE_0__LM1875  PARAMS: AOL=90 GBW=5.5MEG SRP=8MEG SRN=8MEG IT=1M VON=0.5 ROFF=1M
XU3         17 16 VDD OUT_CURRENT_CLAMP_PD_0__LM1875  PARAMS: RON=0.1 ROFF=100MEG VON=0.5 IMAX=4 IMIN=-4
XU_TF       14 18 GNDF TF_0__LM1875  PARAMS: FZ1=10G FZ2=10G FZ3=10G FZ4=10G FZ5=10G FP1=10E6 FP2=10G FP3=10G  FP4=10G
XU1         VDD VSS VDD IQ_IOFF_0__LM1875  PARAMS: VON=0.5 IQQ=70M IOFF=0.2M
XD4         VSS 19 IDEAL_DIODE_0__LM1875  PARAMS: EMCO=0.01 BRKV=60 IBRKV=1M
XD3         19 VDD IDEAL_DIODE_0__LM1875  PARAMS: EMCO=0.01 BRKV=60 IBRKV=1M
XD2         VSS 20 IDEAL_DIODE_0__LM1875  PARAMS: EMCO=0.01 BRKV=60 IBRKV=1M
XD1         20 VDD IDEAL_DIODE_0__LM1875  PARAMS: EMCO=0.01 BRKV=60 IBRKV=1M
XU_GND      VDD VSS GNDF GND_FLOAT_0__LM1875
XU6         16 Vout Vimon AMETER_0__LM1875  PARAMS: GAIN=1
XU_CLAW     VDD VSS 18 17 Vimon GNDF VCLAMP_W_SENSE_0__LM1875  PARAMS: VMAXIO=1 VMINIO=1 SLOPE=0
XU2_VCLAMP  VDD VSS 19 13 GNDF VCLAMP_0__LM1875  PARAMS: VMAX=0.1 VMIN=0.1
XU1_VCLAMP  VDD VSS 20 15 GNDF VCLAMP_0__LM1875  PARAMS: VMAX=0.1 VMIN=0.1
XU_CMRR     10 19 GNDF CMRR_0__LM1875  PARAMS: CMRR=110 FCMRR=20
XUINPUT     Vip Vin 11 8 GNDF INPUT_0__LM1875  PARAMS: RCM=1 CCM=1000F CDM=100F
.ENDS


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT PSRR_0__LM1875   VDD  VSS  VI  VO  GNDF PARAMS: PSRR = 130 FPSRR = 1.6
.PARAM PI = 3.141592
.PARAM RPSRR = 1
.PARAM GPSRR = {PWR(10,-PSRR/20)/RPSRR}
.PARAM LPSRR = {RPSRR/(2*PI*FPSRR)}
G1  GNDF 1 VDD VSS {GPSRR}
R1  1 2 {RPSRR}
L1  2 GNDF {LPSRR}
E1  VO VI 1 GNDF 1
C2  VDD VSS 10P
.ENDS


* BEGIN PROG NSE NANO VOLT/RT-HZ
.SUBCKT VNSE_0__LM1875  1 2 PARAMS: NLF = 10 FLW = 4  NVR = 4.6
* BEGIN SETUP OF NOISE GEN - NANOVOLT/RT-HZ
* INPUT THREE VARIABLES
* SET UP VNSE 1/F
********************
* NV/RHZ AT 1/F FREQ
* NLF
********************
* FREQ FOR 1/F VAL
* FLW
********************
* SET UP VNSE FB
* NV/RHZ FLATBAND
* NVR
********************
* END USER INPUT
* START CALC VALS
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* END CALC VALS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
C1 1 0 1E-15
C2 2 0 1E-15
C3 1 2 1E-15
.ENDS
* END PROG NSE NANOV/RT-HZ


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************



.SUBCKT GBW_SLEW_SE_0__LM1875    VIP  VIM  VO  GNDF  PD  PARAMS: AOL = 100  GBW = 1MEG  SRP = 1MEG  SRN = 1MEG IT = 1M  VON = 0.5 ROFF = 1M
.PARAM PI = 3.141592
.PARAM IP = {IF(SRP <= SRN,IT,IT*(SRP/SRN))}
.PARAM IN = {IF(SRN <= SRP,-IT,-IT*(SRN/SRP))}
.PARAM CC = {IF(SRP <= SRN,IT/SRP,IT/SRN)}
.PARAM FP = {GBW/PWR(10,AOL/20)}
.PARAM RC = {1/(2*PI*CC*FP)}
.PARAM GC = {PWR(10,AOL/20)/RC}
G1          GNDF VO VALUE = {IF(V(PD) >= VON,LIMIT(GC*V(VIP,VIM),IP,IN),0)}
C1          VO GNDF {CC}
GR1          VO GNDF VALUE =  {IF(V(PD) >= VON,V(VO,GNDF)/RC,V(VO,GNDF)/ROFF)}
RGR1_dc VO GNDF 1T
GR11          VO GNDF VALUE =  {V(VO,GNDF)/(RC*100)}
RGR11_dc VO GNDF 1T
.ENDS



**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT OUT_CURRENT_CLAMP_PD_0__LM1875   IN  OUT  PD PARAMS: RON = 1 ROFF = 1G   VON = 0.5 IMAX = 10M  IMIN = -10M
GRES  IN OUT VALUE = {LIMIT(IF(V(PD) >= VON,1,0)*V(IN,OUT)/RON  + IF(V(PD) >= VON,0,1)*V(IN,OUT)/ROFF,IMAX,IMIN)}
RGRES_dc IN OUT 1T
.ENDS


.SUBCKT TF_0__LM1875    VI  VO  GNDF  PARAMS: FZ1 = 10G FZ2 = 10G FZ3 = 10G FZ4 = 10G FZ5 = 10G  FP1 = 1 FP2 = 10G FP3 = 10G FP4 = 10G
.PARAM GM = 1M
.PARAM RO = {1/GM}
.PARAM PI = 3.141592

GP1  GNDF VP1 VI GNDF {GM}
GRP1 VP1 GNDF VALUE = {V(VP1,GNDF)/RO}
RGRP1_dc VP1 GNDF 1T
CP1  VP1 GNDF {1/(2*PI*RO*FP1)}

GP2  GNDF VP2 VP1 GNDF {GM}
GRP2 VP2 GNDF VALUE = {V(VP2,GNDF)/RO}
RGRP2_dc VP2 GNDF 1T
CP2  VP2 GNDF {1/(2*PI*RO*FP2)}

GP3  GNDF VP3 VP2 GNDF {GM}
GRP3 VP3 GNDF VALUE = {V(VP3,GNDF)/RO}
RGRP3_dc VP3 GNDF 1T
CP3  VP3 GNDF {1/(2*PI*RO*FP3)}

GP4  GNDF VP4 VP3 GNDF {GM}
GRP4 VP4 GNDF VALUE = {V(VP4,GNDF)/RO}
RGRP4_dc VP4 GNDF 1T
CP4  VP4 GNDF {1/(2*PI*RO*FP4)}

GZ1  GNDF VZ1 VP4 GNDF {GM}
GRZ1  VZ1 VX1 VALUE =  {V(VZ1,VX1)/RO}
RGRZ1_dc VZ1 VX1 1T
LZ1  VX1 GNDF {RO/(2*PI*FZ1)}

GZ2  GNDF VZ2 VZ1 GNDF {GM}
GRZ2  VZ2 VX2 VALUE =  {V(VZ2,VX2)/RO}
RGRZ2_dc VZ2 VX2 1T
LZ2  VX2 GNDF {RO/(2*PI*FZ2)}

GZ3  GNDF VZ3 VZ2 GNDF {GM}
GRZ3  VZ3 VX3 VALUE =  {V(VZ3,VX3)/RO}
RGRZ3_dc VZ3 VX3 1T
LZ3  VX3 GNDF {RO/(2*PI*FZ3)}

GZ4  GNDF VZ4 VZ3 GNDF {GM}
GRZ4  VZ4 VX4 VALUE =  {V(VZ4,VX4)/RO}
RGRZ4_dc VZ4 VX4 1T
LZ4  VX4 GNDF {RO/(2*PI*FZ4)}

GZ5  GNDF VO VZ4 GNDF {GM}
GRZ5  VO VX5  VALUE = {V(VO,VX5)/RO}
RGRZ5_dc VO VX5 1T
LZ5  VX5 GNDF {RO/(2*PI*FZ5)}

.ENDS



**************************************
**          **
**                       **
**             **
**             **
**************************************

.SUBCKT IQ_IOFF_0__LM1875   VDD VSS PD  PARAMS: VON = 0.5 IQQ = 1M  IOFF = 1P
G1 VDD VSS VALUE = {IF(V(PD) >= VON,IQQ,IOFF)}
.ENDS


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT IDEAL_DIODE_0__LM1875  A C PARAMS: EMCO = 0.01 BRKV = 60 IBRKV = 1M)
D1 A C IDIODE
.MODEL IDIODE D(N = {EMCO} BV = {BRKV} IBV = {IBRKV})
.ENDS


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************
.SUBCKT GND_FLOAT_0__LM1875   VDD VSS GNDF
EGNDF  GNDF 0 VALUE = {(V(VDD)+V(VSS))*0.5}
.ENDS


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT AMETER_0__LM1875   VI  VO VIMON  PARAMS: GAIN = 1
VSENSE VI VO DC = 0
EMETER VIMON 0 VALUE = {I(VSENSE)*GAIN}
.ENDS


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT VCLAMP_W_SENSE_0__LM1875   VDD  VSS  VI  VO VIMON  GNDF  PARAMS: VMAXIO = 0.1 VMINIO = 0.1 SLOPE = 0
EPCLIP  VDD_CLP 0 VALUE = {V(VDD,GNDF) - SLOPE*V(VIMON) - VMAXIO}
ENCLIP  VSS_CLP 0 VALUE = {V(VSS,GNDF) - SLOPE*V(VIMON) + VMINIO}
*EPCLIP  VDD_CLP 0 VALUE = {V(VDD,GNDF) -  VMAXIO}
*ENCLIP  VSS_CLP 0 VALUE = {V(VSS,GNDF)  + VMINIO}
ECLAMP  VO GNDF VALUE = {LIMIT(V(VI,GNDF), V(VDD_CLP), V(VSS_CLP))}
.ENDS


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT VCLAMP_0__LM1875   VDD  VSS  VI  VO  GNDF PARAMS: VMAX = 0.1 VMIN = 0.1
ECLAMP  VO GNDF VALUE = {LIMIT(V(VI,GNDF),V(VDD,GNDF) - VMAX, V(VSS,GNDF) + VMIN)}
.ENDS


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT CMRR_0__LM1875   VI  VO  GNDF PARAMS: CMRR = 130 FCMRR = 1.6K
.PARAM PI = 3.141592
.PARAM RCMRR = 1
.PARAM GCMRR = {PWR(10,-CMRR/20)/RCMRR}
.PARAM LCMRR = {RCMRR/(2*PI*FCMRR)}
G1  GNDF 1 VI GNDF {GCMRR}
R1  1 2 {RCMRR}
L1  2 GNDF {LCMRR}
E1  VI VO 1 GNDF 1
.ENDS


**************************************
**                                  **
**                                  **
**                                  **
**                                  **
**************************************

.SUBCKT INPUT_0__LM1875    VIP  VIN  VOP  VON  GNDF PARAMS: RCM = 1  CCM = 100F  CDM = 100F
C1          VOP GNDF {CCM}
C2          VON GNDF {CCM}
C3          VOP VON {CDM}
G1          VIP VOP VALUE =  {V(VIP,VOP)/RCM}
RG1_dc VIP VOP 1T
G2          VIN VON VALUE = {V(VIN,VON)/RCM}
RG2_dc VIN VON 1T
.ENDS


.END
